US06818663B2
A. (S)-2-(4-Nitro-phenoxymethyl)-pyrrolidine-1-carboxylic Acid tert-Butyl Ester
To a stirred solution of (S)-2-hydroxymethyl-pyrrolidine-1-carboxylic acid tert-butyl ester (Aldrich, 2.01 g, 10 mmol) in tetrahydrofura n (15 mL) at —78° C., n-BuLi (2.5 M in hexanes, 11 mmol, 4.4 mL) was added dropwise. After the addition, 4-fluoro nitrobenzene (1.41 g, 10 mmol) was added and the solution was gradually warmed to room temperature and stirred for 2 hours. The solution was poured into water and the mixture was extracted with ether. The extract was dried (Na2SO4) and concentrated to give the crude which was chromatographed (20% ethyl acetate/hexanes) to yield a pale yellow oil. 1.34 g.

reactant | (S)-2-hydroxymethyl-pyrrolidine-1-carboxylic acid tert-butyl ester | 10 mmol, 2.01 g | C(C)(C)(C)OC(=O)N1[C@@H](CCC1)CO | C10H19NO3
reactant | n-BuLi | 11 mmol, 2.5 M, 4.4 mL | [Li]CCCC
reactant | 4-fluoro nitrobenzene | 10 mmol, 1.41 g | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
reactant | water | O | H2O
solvent | tetrahydrofura n | 15 mL | O1CCCC1 | C4H8O
product | (S)-2-(4-Nitro-phenoxymethyl)-pyrrolidine-1-carboxylic Acid tert-Butyl Ester | C(C)(C)(C)OC(=O)N1[C@@H](CCC1)COC1=CC=C(C=C1)[N+](=O)[O-] | C16H22N2O5
